US06350762B1
2) Synthesis of 2-cyanoethyl 4-(3-chlorophenyl)-2,6-dimethyl-5-(methyl-(3-phenyl-2-propene-1-yl)carbamoyl)-1,4-dihydropyridine-3-carboxylate
306 mg (1.32 mmol) of N-methyl-3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide, 0.150 ml (1.32 mmol) of 3-chlorobenzaldehyde and 0.013 ml (0.132 mmol) of piperidine were heated under reflux overnight while water was removed. After washing with water, the organic layer was dried over anhydrous magnesium sulfate and then the solvent was evaporated under reduced pressure. The residue and 204 mg (1.32 mmol) of 2-cyanoethyl 3-aminocrotonate were heated at 85° C. under stirring in 6.6 ml of 2-propanol overnight. The reaction mixture was further heated at 120° C. under stirring under atmospheric pressure for 3 hours while 2-propanol was evaporated. The residue was purified by the high-performance liquid chromatography to obtain the title compound.

reactant | N-methyl-3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide | 1.32 mmol, 306 mg | CN(C(CC(C)=O)=O)CC=CC1=CC=CC=C1 | C14H17NO2
reactant | 3-chlorobenzaldehyde | 1.32 mmol, 0.150 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | piperidine | 0.132 mmol, 0.013 ml | N1CCCCC1 | C5H11N
reactant | 2-cyanoethyl 3-aminocrotonate | 1.32 mmol, 204 mg | N\C(=C/C(=O)OCCC#N)\C | C7H10N2O2
solvent | 2-propanol | 6.6 ml | CC(C)O | C3H8O
solvent | water | O | H2O
product | 2-cyanoethyl 4-(3-chlorophenyl)-2,6-dimethyl-5-(methyl-(3-phenyl-2-propene-1-yl)carbamoyl)-1,4-dihydropyridine-3-carboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(N(CC=CC1=CC=CC=C1)C)=O)C)C)C(=O)OCCC#N | C28H28ClN3O3
